US05753664
3-Methyl-2-[4-[4-(2-morpholinoethoxy)benzoyl]benzylthio]-4H-pyrido[1,2-a]pyrimidin-4-one
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (214 mg), 4-(2-chloroethyl)morpholine hydrochloride (157 mg) and potassium carbonate (247 mg) in DMF (7 ml) was stirred at 80° C. for 4 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, and dried. Then, hydrogen chloride/ethyl acetate was added and the precipitated hydrochloride was recovered by filtration and dried to provide the title compound as colorless solid (182 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 214 mg | OC1=CC=C(C(=O)C2=CC=C(CSC=3N=C4N(C(C3C)=O)C=CC=C4)C=C2)C=C1 | C23H18N2O3S
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 157 mg | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 247 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-2-[4-[4-(2-morpholinoethoxy)benzoyl]benzylthio]-4H-pyrido[1,2-a]pyrimidin-4-one | 182 mg | CC1=C(N=C2N(C1=O)C=CC=C2)SCC2=CC=C(C=C2)C(C2=CC=C(C=C2)OCCN2CCOCC2)=O | C29H29N3O4S
